US05576324
5-Methyl2-(α-methylalanyl)aminomethyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one.
2-(N-Carbobenzyloxy-α-methylalanyl]aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (2.46 g, 5.48 mmol) was dissolved in dimethylformamide (190 ml). To the obtained solution, 10% palladium-on-carbon (2.46 g) was added, followed by stirring at room temperature for 3 hours in the atmosphere of hydrogen. The reaction mixture was filtered, and the filtrate was condensed. The resultant residue was dissolved in methanol (70 ml). To the obtained solution, 1.37 N-HCl--methanol (4.39 ml) was added at room temperature, followed by condensing under reduced pressure. The resultant residue was submitted to a recrystallizing procedure using methanol to obtain 1.65 g of the title compound as pale yellow powdery crystals (85.6%).

reactant | 2-(N-Carbobenzyloxy-α-methylalanyl]aminomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 5.48 mmol, 2.46 g | C(=O)(OCC1=CC=CC=C1)NC(C)(C(=O)NCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1)C | C25H27N3O5
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 190 ml | CN(C=O)C | C3H7NO
solvent | methanol | 70 ml | CO | CH4O
catalyst | palladium-on-carbon | 2.46 g | [Pd] | Pd
product | 5-Methyl2-(α-methylalanyl)aminomethyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 1.65 g, 85.6% | CC=1C=C2C(=C3C=CC(NC13)=O)OC(C2)CNC(C(N)(C)C)=O | C17H21N3O3
